US05140084
8.5 g (0.1 mole) of cyanoacetic acid, 10.43 g (0.1 mole) of trimethylsilylmethanol, 30.66 g (0.12 mole) of 2-chloro-1-methylpyridinium iodide, 24.3 g (0.24 mole) of triethylamine and 200 ml of tetrahydrofuran were placed in a reaction vessel and reaction was allowed to take place at 50° C. for 3 hours in an argon atmosphere. Thereafter, a 10% aqueous sodium thiosulfate solution was added, followed by extraction with ether. An organic layer obtained was washed with a 10% aqueous sodium thiosulfate solution and then with water, then dried overnight with anhydrous magnesium. Thereafter, the desiccant was filtered off and the solvent was removed under a reduced pressure, followed by vacuum distillation to afford 14.6 g of trimethylsilylmethyl α-cyanoacetate (NCCH2CO2CH2SiMe3) (b.p. 81°-82° C./2 mmHg, yield 85%).

reactant | cyanoacetic acid | 0.1 mole, 8.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | trimethylsilylmethanol | 0.1 mole, 10.43 g | C[Si](C)(C)CO | C4H12OSi
reactant | 2-chloro-1-methylpyridinium iodide | 0.12 mole, 30.66 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 0.24 mole, 24.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | trimethylsilylmethyl α-cyanoacetate | 14.6 g, yield 85% | C(#N)CC(=O)OC[Si](C)(C)C | C7H13NO2Si
